US09315475B2
Step 8. (3S)-3-(4-Fluorophenyl)-3-(3,5-difluorophenyl)-N-(5-fluoro-4-(2-((2R,5R)-4-(tert-butyloxycarbonyl)-5-(2,2,2-trifluoroethylaminocarbonyloxymethyl)-morpholine-2-yl)ethyl)pyridin-3-yl)propanamide
A solution of tert-butyl (2R,5R)-2-(2-(3-amino-5-fluoropyridin-4-yl)ethyl)-5-(2,2,2-trifluoroethylaminocarbonyloxymethyl)morpholine-4-carboxylate (75 mg, 0.16 mmol) and (3S)-3-(3,5-difluorophenyl)-3-(4-fluorophenyl)propanoic acid (44 mg, 0.16 mmol) in pyridine (1.0 mL) was cooled to −10° C. in an ice-acetone bath. To the stirred solution was added POCl3 (0.016 mL, 0.17 mmol) and the mixture was stirred for 30 min. The reaction was quenched by the addition of aqueous NaHCO3 solution and the resulting mixture was extracted with two portions of EtOAc. The combined EtOAc layers were dried (MgSO4), filtered, and the solvents were removed in vacuo. The residue was chromatographed on a 12 g SiO2 column using a gradient elution of 0-70% EtOAc in hexanes. Fractions containing product were combined and the solvents were removed in vacuo to give a gum. LC MS: RT=1.41 min, M+H=743 (2 min gradient)

reactant | tert-butyl (2R,5R)-2-(2-(3-amino-5-fluoropyridin-4-yl)ethyl)-5-(2,2,2-trifluoroethylaminocarbonyloxymethyl)morpholine-4-carboxylate | 0.16 mmol, 75 mg | NC=1C=NC=C(C1CC[C@@H]1CN([C@H](CO1)COC(=O)NCC(F)(F)F)C(=O)OC(C)(C)C)F | C20H28F4N4O5
reactant | (3S)-3-(3,5-difluorophenyl)-3-(4-fluorophenyl)propanoic acid | 0.16 mmol, 44 mg | FC=1C=C(C=C(C1)F)[C@@H](CC(=O)O)C1=CC=C(C=C1)F | C15H11F3O2
reactant | POCl3 | 0.17 mmol, 0.016 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | (3S)-3-(4-Fluorophenyl)-3-(3,5-difluorophenyl)-N-(5-fluoro-4-(2-((2R,5R)-4-(tert-butyloxycarbonyl)-5-(2,2,2-trifluoroethylaminocarbonyloxymethyl)-morpholine-2-yl)ethyl)pyridin-3-yl)propanamide | FC1=CC=C(C=C1)[C@H](CC(=O)NC=1C=NC=C(C1CC[C@@H]1CN([C@H](CO1)COC(=O)NCC(F)(F)F)C(=O)OC(C)(C)C)F)C1=CC(=CC(=C1)F)F | C35H37F7N4O6
